US08278457B2
Step 1. Synthesis of methyl 3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}-benzoate
A solution of methyl 3-cyano-4-hydroxybenzoate [see P. Madsen et al, J. Medicinal Chemistry 2002, 45, 5755-5775] (4.18 g, 23.6 mmol) in dichloromethane (81 mL) was treated with 4-(dimethylamino)pyridine (432 mg, 3.54 mmol) and cooled to 0° C. After addition of triethylamine (4.93 mL, 35.4 mmol), the solution was treated drop-wise with trifluoromethanesulfonic anhydride (5.96 mL, 35.4 mmol) and allowed to warm to room temperature. After 2 hours, the reaction was concentrated in vacuo, and repetitively treated with dichloromethane and concentrated until 17 grams of material remained. This was subjected to silica gel chromatography (Gradient: 0% to 10% ethyl acetate in heptane) to provide product as a colorless oil. Yield: 6.50 g, 21.0 mmol, 89%. 1H NMR (500 MHz, CDCl3) δ 4.00 (s, 3H), 7.60 (d, J=8.8 Hz, 1H), 8.39 (dd, J=8.8, 2.1 Hz, 1H), 8.45 (d, J=2.2 Hz, 1H).

reactant | methyl 3-cyano-4-hydroxybenzoate | 23.6 mmol, 4.18 g | C(#N)C=1C=C(C(=O)OC)C=CC1O | C9H7NO3
reactant | triethylamine | 35.4 mmol, 4.93 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 35.4 mmol, 5.96 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 81 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 3.54 mmol, 432 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}-benzoate | C(#N)C=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F | C10H6F3NO5S
